US06294152B1
1-(2′-Hydroxyethyl)-3-hydroxy-2-methyl-4-pyridinone (LIGAND VI).
A reaction analogous to that used for the synthesis of 3-hydroxy-1,2-dimethyl-4- pyridinone was employed, starting with ethanolamine (0.44 g). No precipitate was observed after concentration. Recrystallization from ethanol and diethyl ether resulted in a white powder (0.53 g). Proton NMR (D20): 7.82 (d, 1H), 6.89 (d, 1H), 4.27 (t, 2H), 3.74 (t, 2H), 2.36 (s, 3H).

reactant | 3-hydroxy-1,2-dimethyl-4- pyridinone | OC1=C(N(C=CC1=O)C)C | C7H9NO2
reactant | ethanolamine | 0.44 g | C(O)CN | C2H7NO
product | 1-(2′-Hydroxyethyl)-3-hydroxy-2-methyl-4-pyridinone | 0.53 g | OCCN1C(=C(C(C=C1)=O)O)C | C8H11NO3
